US07550459B2
5,8-Difluoro-4H-benzo[1,4]oxazin-3-one
2-Amino-3,6-diflourophenol (0.44 g, 3.0 mmol), 2-chloroacetyl chloride (0.38 g, 3.3 mmol) and K2CO3 (0.88 g, 6.4 mmol) were mixed according to GP1. Purified by extraction gave the title compound (0.52 g, 93%). Rf=0.57 (heptanes/EtOAc 1:1); 1H NMR (CDCl3) d 8.02 (s, 1H), 7.78-6.69 (m, 2H), 4.72 (s, 2H); 13C NMR (CDCl3) d 163.7, 148.0 (dd, J=242.4 Hz, J=2.1 Hz), 145.9 (d, J=237.9 Hz), 132.9 (dd, J=16.7 Hz, J=4.4 Hz), 117.2 (dd, J=16.9 Hz, J=3.8 Hz), 110.2 (dd, J=20.5 Hz, J=8.6 Hz), 108.6 (dd, J=20.0 Hz, J=7.7 Hz), 67.4.

reactant | 2-Amino-3,6-diflourophenol | 3.0 mmol, 0.44 g | NC1=C(C(=CC=C1F)F)O | C6H5F2NO
reactant | 2-chloroacetyl chloride | 3.3 mmol, 0.38 g | ClCC(=O)Cl | C2H2Cl2O
reactant | K2CO3 | 6.4 mmol, 0.88 g | C(=O)([O-])[O-].[K+].[K+]
product | 5,8-Difluoro-4H-benzo[1,4]oxazin-3-one | 0.52 g, 93% | FC1=CC=C(C2=C1NC(CO2)=O)F | C8H5F2NO2
